US03941745
The S-octyldithiobiuret was prepared as follows: To 135 g of dithiobiuret in 300 ml ethyleneglycol monomethyl ether were added 210 g of n-octyl bromide dropwise at 70°C. After 12 hours the solvent was distilled off at 12 mm. The residue was dissolved in toluene and hexane was added after which the mixture was cooled at 0°C. The solvent was decanted from the semicrystalline precipitate which was dissolved again in glacial acetic acid. The solution was poured on icewater and stirred for 2 hours. The solid was filtered, stirred with hexane in a beaker until it had completely crystallized, filtered and dried. The product had a melting point of 75°-77°C.

reactant | dithiobiuret | 135 g | NC(=S)NC(=S)N | C2H5N3S2
reactant | n-octyl bromide | 210 g | C(CCCCCCC)Br | C8H17Br
solvent | ethyleneglycol monomethyl ether | 300 ml | COCCO | C3H8O2
product | S-octyldithiobiuret | C(CCCCCCC)S=C(N)NC(=S)N | C10H23N3S2
